US04451479
N,O-Bis(trifluoroacetyl)hydroxylamine
To 135.2 g. of trifluoroacetic anhydride is added 14.0 g. of hydroxylamine hydrochloride. The mixture is refluxed for 2 hours then is cooled. The excess reaction solvents are removed and the residue is treated twice with hexane. The organic solvent is removed in vacuo. The product is recrystallized twice from dichloromethane to give 35.4 g. of the desired product as white crystals, 59°-60° C. (sublim.). The product is kept dry in a vacuum desicator.

reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydroxylamine hydrochloride | Cl.NO
product | N,O-Bis(trifluoroacetyl)hydroxylamine | FC(C(=O)NOC(C(F)(F)F)=O)(F)F | C4HF6NO3
